US07241791B2
Step 1: 3-(4-methoxyphenyl)-7-methyl-1-propyl-1H-indazole
Prepared according to Method D step B from 3-(4-methoxyphenyl)-7-methyl-1H-indazole (0.115 g, 0.5 mmol), sodium hydride (60% in oil, 0.024 g, 0.6 mmol) and 1-iodopropane (0.098 mL, 1.0 mmol) to give the title compound (0.070 g) as a white solid.

reactant | 3-(4-methoxyphenyl)-7-methyl-1H-indazole | 0.5 mmol, 0.115 g | COC1=CC=C(C=C1)C1=NNC2=C(C=CC=C12)C | C15H14N2O
reactant | sodium hydride | 0.6 mmol, 0.024 g | [H-].[Na+]
reactant | 1-iodopropane | 1.0 mmol, 0.098 mL | ICCC | C3H7I
product | 3-(4-methoxyphenyl)-7-methyl-1-propyl-1H-indazole | 0.070 g | COC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)C)CCC | C18H20N2O
